US04968707
2-(3-Chlorophenyl)-2-hydroxyethylamine (24.4 g, 0.142 mol) and methyl 4-(2-oxopropyl)benzoate (26 g, 0.135 mol) were combined and refluxed in 500 ml toluene for 3 hours, collecting formed H2O with a Dean-Stark trap. The reaction mixture was cooled and stripped of solvent to yield intermediate methyl 4-[2-(2-(3-chlorophenyl)-2-hydroxyethylimino)propyl]benzoate.

reactant | 2-(3-Chlorophenyl)-2-hydroxyethylamine | 0.142 mol, 24.4 g | ClC=1C=C(C=CC1)C(CN)O | C8H10ClNO
reactant | methyl 4-(2-oxopropyl)benzoate | 0.135 mol, 26 g | O=C(CC1=CC=C(C(=O)OC)C=C1)C | C11H12O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-[2-(2-(3-chlorophenyl)-2-hydroxyethylimino)propyl]benzoate | ClC=1C=C(C=CC1)C(CN=C(CC1=CC=C(C(=O)OC)C=C1)C)O | C19H20ClNO3
